US04220654
B. 5-(2-Bromopropionyl)-2-(phthalimidomethyl) thiophene
2-Phthalimidomethyl-5-propionylthiophene (39.3 g., 0.13 mole) is dissolved in methylene chloride 300 ml.) and bromine (20.8 g., 0.13 mole) is added dropwise with stirring over 3/4 hours at room temperature. The solution is partially evaporated in vacuo to remove the hydrogen bromide. Then it is washed with saturated sodium carbonate solution and with water, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. This affords 5-(2-bromopropionyl)-2-(phthalimidomethyl) thiophene as a pale beige solid (46.7 g.), m.p. 127°-130° C.

reactant | 2-Phthalimidomethyl-5-propionylthiophene | 0.13 mole, 39.3 g | C1(C=2C(C(N1CC=1SC(=CC1)C(CC)=O)=O)=CC=CC2)=O | C16H13NO3S
reactant | bromine | 0.13 mole, 20.8 g | BrBr | Br2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 5-(2-Bromopropionyl)-2-(phthalimidomethyl) thiophene | BrC(C(=O)C1=CC=C(S1)CN1C(C=2C(C1=O)=CC=CC2)=O)C | C16H12BrNO3S
